US08058441B2
1-Acetyl-4-(4-hydroxyphenyl)-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
To a cooled (0° C.) solution of 1-acetyl-4-(4-methoxyphenyl)-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (0.46 g) in CH2Cl2 was added BBr3 under a nitrogen atmosphere. Complete conversion was reached after stirring for 3 h at room temperature. The mixture was cooled, 1 M NaOH was added until basic pH, subsequently ethyl acetate was added and the mixture was acidified with 1 M HCl. The organic layer was separated, dried (MgSO4) and concentrated. The residue was chromatographed on silicagel in heptane/ethyl acetate=1/0→0/1 (v/v) as eluent.

reactant | 1-acetyl-4-(4-methoxyphenyl)-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 0.46 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C1=CC=C(C=C1)OC)(C)C | C34H34N2O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-4-(4-hydroxyphenyl)-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C1=CC=C(C=C1)O)(C)C | C33H32N2O3
